US05468704
Preparation of 2,2,4,4,6,6-hexamethyl-3,5-heptanedione
To a suspension of 1.6 g of NaH at 80% by weight in 42 ml of anhydrous tetrahydrofurane are added dropwise 8 g of 2,2,4,6,6-pentamethyl-3,5-heptanedione (0.04 moles). The content is stirred at ambient temperature until a homogeneous solution is obtained. 7.7 ml of methyl iodide are then added and a white precipitate forms almost immediately. The content is allowed to agitate at ambient temperature for 12 hours and then the solvent is evaporated. Some water is added (10 ml) and the content is extracted with ether and then anhydrated on Na2SO4. The ether is evaporated to the rotavapor, isolating a white needle-shaped solid, which is then purified by way of sublimation.

reactant | NaH | 1.6 g | [H-].[Na+]
reactant | 2,2,4,6,6-pentamethyl-3,5-heptanedione | 0.04 moles, 8 g | CC(C)(C(C(C(C(C)(C)C)=O)C)=O)C | C12H22O2
reactant | methyl iodide | 7.7 ml | CI | CH3I
solvent | tetrahydrofurane | 42 ml | O1CCCC1 | C4H8O
product | 2,2,4,4,6,6-hexamethyl-3,5-heptanedione | CC(C)(C(C(C(C(C)(C)C)=O)(C)C)=O)C | C13H24O2
